US08008298B2
(1-Methyl-cyclohexyl)-[2-(4-morpholin-4-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 4-morpholin-4-yl-phenylboronic acid following general procedures as described in these Examples. MP 233-235° C., M+H=405.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 4-morpholin-4-yl-phenylboronic acid | N1(CCOCC1)C1=CC=C(C=C1)B(O)O | C10H14BNO3
product | (1-Methyl-cyclohexyl)-[2-(4-morpholin-4-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)N2CCOCC2 | C24H28N4O2
